US09023865B2
A mixture of 6-chloro-3-cyclopropyl-1-trityl-1H-pyrazolo[4,3-c]pyridine (60 mg, 0.138 mmol), 1-(4-fluorobenzyl)urea (69 mg, 0.413 mmol), palladium(II) acetate (6 mg, 0.028 mmol), Xantphos (4,5-bis(diphenylphosphino)-9,9-dimethyxanthene, 24 mg, 0.041 mmol), and cesium carbonate (112 mg, 0.028 mmol) in dioxane (1 mL) was degassed and refilled with nitrogen (3 times) and then heated at 80° C. overnight. The mixture was diluted with dichloromethane (5 mL) and water (1 mL), and then was filtered through celite. The DCM layer was evaporated under reduced pressure and purified by column chromatography on silica gel (eluting with 0-30% EtOAc/hexanes) to give 1-(3-cyclopropyl-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(4-fluorobenzyl)urea (70 mg, 90% yield) as a clear-white film. MS ESI calc'd. for C36H30FN5O[M+1]+ 568, found 568.

reactant | 6-chloro-3-cyclopropyl-1-trityl-1H-pyrazolo[4,3-c]pyridine | 0.138 mmol, 60 mg | ClC1=CC2=C(C=N1)C(=NN2C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2CC2 | C28H22ClN3
reactant | 1-(4-fluorobenzyl)urea | 0.413 mmol, 69 mg | FC1=CC=C(CNC(=O)N)C=C1 | C8H9FN2O
reactant | Xantphos | 0.041 mmol, 24 mg | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | cesium carbonate | 0.028 mmol, 112 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | palladium(II) acetate | 0.028 mmol, 6 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 1-(3-cyclopropyl-1-trityl-1H-pyrazolo[4,3-c]pyridin-6-yl)-3-(4-fluorobenzyl)urea | 70 mg, 90% yield | C1(CC1)C1=NN(C2=C1C=NC(=C2)NC(=O)NCC2=CC=C(C=C2)F)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C36H30FN5O
